Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of CAD, aortic stenosis, HTN, macular 
degeneration presents after an unwitnessed fall at home. Patient 
has no recollection of the fall and is not able to provide any 
medical history. Per her son, she was found by her home health 
aide on the bathroom floor, unclear if she slipped and fell 
while in the shower. Initially in the ED, she did not recall 
falling but endorsed left chest wall pain. Currently she denies 
chest pain, shortness of breath, dysuria, 
weakness/numbness/lightheadedness, or pain anywhere else in her 
body.
She lives in an independent living facility and has a home 
health aide who comes in three times a day to help her with 
pills and meals. Her son reports that she has dementia. She is 
able to recognize her children and grandchildren but has 
difficulty with short term memory recall, recall of events. She 
is able to find her way around; he reports that she does 
occasionally go to ___ near where she lives to get ice 
cream on her own and finds her way back ok. She is not strong on 
her feet and walking up steps or transferring into the car is 
difficult for her.
In the ED, initial vs were: T 98.3 P 84 BP 160/80 RR 18 O2 sat 
95% RA. Labs were remarkable for a K of 5.5 without EKG changes 
(which was hemolyzed, repeat down to 3.6), lactate of 4.8 which 
came down to 2.6 with IVF. UA was negative. CT of head and 
C-spine were negative. CT of chest and abdomen showed left 
___ nondisplaced rib fractures and a left adrenal gland 
nodule. Patient was given 2 L NS, 2 mg IV morphine, 650 mg 
tylenol, 25 mg tramadol, SCH in addition to her home meds 
lisinopril 20 mg, donepezil 10 mg, colace, aspirin 81 mg. She 
was initially admitted to ___ for ___ protocol but is being 
transferred to medicine service for syncope workup.
On the floor, vs were: T 98.1 P 87 BP 155/77 R 18 O2 sat 95% RA 
 
Past Medical History:
(per OMR notes and discussion with son)
1. Hypertension.
2. Hyperlipidemia.
3. Macular degeneration and glaucoma, legally blind, unable to 
read small type.
4. History of neurocardiogenic syncope.
5. CAD s/p NSTEMI in ___ with no obstructive coronary artery
disease by cardiac catheterization
6. Aortic stenosis
7. History of a wide right carotid pulse without aneurysmal
dilatation.
8. Benign positional vertigo.
9. Dementia
10. Osteoporosis 
 
Social History:
___
Family History:
(per last discharge summary) Mother- d. ___, breast CA, Father- 
d. ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T 98.3 P 84 BP 160/80 RR 18 O2 sat 95% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, decreased breath 
sounds at bases
CV: Regular rate and rhythm, systolic murmur heard throughout, 
radiating to carotids
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, pneumoboots on
Neuro: A+O to person, place but not month or year; CN's II-XII 
intact, ___ strength, sensation intact 

DISCHARGE PHYSICAL EXAM:
VS: T 98.5, BP 154/75 (sbp 154-170), P 64 (64-77), 18, 97%RA
Gen: Well-appearing, NAD
HEENT: PERRL, dry MM, no oral lesions, EOMI
Neck: Supple, JVD 10cm
Heart: RRR, ___ c/d late-peaking murmur at RUSB, delayed carotid 
upstroke
Lungs: LCTA-bl, no w/r/r
Abd: Soft, NTND, no HSM
Ext: Trace pitting edema 

 
Pertinent Results:
ADMISSION:
___ 10:59AM BLOOD WBC-15.1* RBC-6.51* Hgb-16.4* Hct-54.1* 
MCV-83 MCH-25.1* MCHC-30.2* RDW-14.1 Plt ___
___ 10:59AM BLOOD Neuts-83* Bands-2 Lymphs-8* Monos-6 Eos-0 
Baso-1 ___ Myelos-0
___ 10:59AM BLOOD Glucose-142* UreaN-19 Creat-1.0 Na-139 
K-5.5* Cl-103 HCO3-22 AnGap-20
___ 10:59AM BLOOD CK(CPK)-100
___ 11:04AM BLOOD Lactate-4.8* K-5.3*
___ 03:24PM BLOOD Lactate-2.6*
___ 01:30PM URINE Color-Straw Appear-Clear Sp ___
___ 01:30PM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:30PM URINE RBC-4* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 01:30PM URINE Mucous-OCC
CT C-SPINE:
IMPRESSION:  No acute fracture or dislocation of the cervical 
spine.
HEAD CT:
IMPRESSION:  No acute intracranial abnormality.
CT CHEST/ABDOMEN:
IMPRESSION:
1.  Left fourth to sixth nondisplaced rib fractures of 
indeterminate age,
though no callus formation is seen to suggest chronicity.
2.  Indeterminate left adrenal gland nodule.  Recommend clinical 
correlation
and  adrenal protocol CT or MRI for further evaluation.

HOSPITALIZATION & DISCHARGE:
ECHO:
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy with normal cavity 
size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the mid to distal anteroseptal 
and anterior walls. The remaining segments contract normally 
(LVEF = 50 %). Due to suboptimal technical quality, additional 
focal wall motion abnormalities cannot be fully excluded. The 
estimated cardiac index is normal (>=2.5L/min/m2). Right 
ventricular chamber size and free wall motion are normal. The 
number of aortic valve leaflets cannot be determined. The aortic 
valve leaflets are severely thickened/deformed. There is 
critical aortic valve stenosis (valve area <0.8cm2). Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. [Due to acoustic shadowing, the 
severity of mitral regurgitation may be significantly 
UNDERestimated.] There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion.

IMPRESSION: Severe/critical calcific aortic stenosis. Mild 
aortic regurgitation. Mild regional left ventricular dysfunction 
with low-normal global systolic function. Mild pulmonary 
hypertension.

Compared with the prior study (images reviewed) of ___, the 
wall motion abnormalities are new and the measured gradients 
across the aortic valve are significantly greater.

The patient has severe aortic valve stenosis. Based on ___ 
ACC/AHA Valvular Heart Disease Guidelines, if the patient is 
symptomatic (angina, syncope, CHF) and a surgical or TAVI 
candidate, a mechanical intervention has been shown to improve 
survival.  

CT CHEST ___:
IMPRESSION: 
1.  Severe aortic valvular calcifications with mild 
calcifications of the 
ascending thoracic aorta. 
2.  Mild aneurysmal dilatation of the ascending thoracic aorta, 
measuring up to 4.2 cm. 
3.  New small non-hemorrhagic left pleural effusion. 
4.  Indeterminate 2.1 cm left adrenal lesion for which further 
evaluation with adrenal protocol CT or MRI was recommended on 
the recent CT report dated ___. 
5.  Age-indeterminate left-sided rib fractures, unchanged. 
The study and the report were reviewed by the staff radiologist. 


Carotid US ___:
IMPRESSION:  Less than 40% stenosis of the bilateral 
extracranial internal carotid arteries. 

___ 06:55AM BLOOD WBC-8.0 RBC-5.16 Hgb-13.2# Hct-42.2# 
MCV-82 MCH-25.6* MCHC-31.3 RDW-14.3 Plt ___
___ 07:10AM BLOOD WBC-9.6 RBC-5.13 Hgb-13.4 Hct-41.3 
MCV-81* MCH-26.2* MCHC-32.5 RDW-14.3 Plt ___
___ 07:05AM BLOOD WBC-7.4 RBC-5.40 Hgb-13.9 Hct-43.6 
MCV-81* MCH-25.8* MCHC-31.9 RDW-14.3 Plt ___
___ 06:55AM BLOOD Glucose-94 UreaN-17 Creat-0.7 Na-139 
K-3.6 Cl-107 HCO3-21* AnGap-15
___ 07:10AM BLOOD Glucose-76 UreaN-10 Creat-0.6 Na-140 
K-3.7 Cl-106 HCO3-20* AnGap-18
___ 07:05AM BLOOD Glucose-75 UreaN-9 Creat-0.6 Na-137 K-3.9 
Cl-104 HCO3-22 AnGap-15
___ 07:10AM BLOOD Calcium-7.9* Phos-1.6* Mg-2.1
___ 07:05AM BLOOD Calcium-8.2* Phos-3.4# Mg-2.1

Discharge labs:

___ 05:20AM BLOOD WBC-8.6 RBC-5.91* Hgb-15.3 Hct-48.2* 
MCV-82 MCH-26.0* MCHC-31.8 RDW-14.2 Plt ___
___ 05:20AM BLOOD Glucose-80 UreaN-13 Creat-0.7 Na-137 
K-4.1 Cl-101 HCO3-21* AnGap-19
___ 10:59AM BLOOD cTropnT-<0.01
___ 05:20AM BLOOD Calcium-9.4 Phos-3.1 Mg-2.1
___ 10:59AM BLOOD CK(CPK)-100
___ 03:24PM BLOOD Lactate-2.6*
___ 01:52AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:52AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-80 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 01:52AM URINE RBC-1 WBC-37* Bacteri-FEW Yeast-NONE 
Epi-<___ y/o F with history of dementia, CAD, aortic stenosis, and 
macular degeneration admitted after an unwitnessed fall.

#Fall/Critical AS: Unclear etiology; but given patient was in 
shower, mechanical fall seems most likely. Differential included 
critical AS vs. orthostasis vs seizure (which is unlikely given 
no report of postictal symptoms) vs infection (which is unlikely 
given no focal infectious symptoms and negative UA, chest CT). 
She was monitored on telemetry without any acute events. There 
was no evidence of ACS. Cardiac ECHO obtained on ___ revealed 
critical AS (valve area <0.8 cm2) with significant worsening 
since previous ECHO. Her worsening aortic stenosis was discussed 
with cardiology fellow who advised to call ___, NP, who 
is part of cardiac surgery TAVR team who should see patient to 
determine if she is a candidate for TAVR.  ___ evaluated pt on 
___ and recommended NCCT chest and Carotid US as well as CT 
surgery contact. After discussion with patient's son, given very 
few sx concerning for valvular CHF (minimal functional 
limitation), further discussion of TAVR vs. AVR was deferred to 
the outpatient setting. Pt received tylenol and lidocaine patch 
prn pain.  ___ saw the patient and advised that she can go home 
with services (because she ambulates well) but will require a 
lot of services given her dementia. Her son arranged for 24 
hours care with private resources.  

#Rib fractures:  Patient was initially admitted to surgery 
service who advised no need for surgical intervention.  She was 
transferred to the medical service and received tylenol and a 
lidocaine patch prn pain. She was ambulating well and ___ advised 
that she could go home with services.

CHRONIC ISSUES:
#Dementia: Patient was continued on home donepezil.

#Aortic stenosis: Please see above. Patient now has critical AS 
with valve area <0.8 cm2.  She will need to be seen by 
cardiology and cardiac surgery for evaluation for candidacy for 
TAVR.

#HTN: Patient was continued on home lisinopril. Her home 
lisinopril was increased from 20 mg to 40 mg daily.

#Osteoporosis: Home alendronate was held and will be restarted 
on discharge (due on ___.

#HL: Patient was continued on home statin.

#CAD: Patient was continued on home aspirin, statin.

# +UA: On day prior to discharge, UA was sent to lab and showed 
evidence of pyuria. Pt did not report sx of dysuria. UA was sent 
due to intermittent low-output voids noted by RN staff 
overnight. UCx was pending at time of discharge. 

# CODE: Full (will need to be confirmed and addressed with 
patient's son as patient is unable to provide history)
# CONTACT: Son ___ ___, work phone# ___, 
___ 

TRANSITIONAL ISSUES:
- Please continue to address goals of care with patient and her 
son
- Please ensure patient follows up with cardiology and cardiac 
surgery for optimization of medical management and evaluation 
for TAVR
- Please ensure patient has appropriate home services to help 
prevent falls 
- Please repeat electrolyte panel given increase in lisinopril 
dose
- Please follow up blood cultures from this hospitalization
- Please follow up final urine cultures from admission; patient 
had UA drawn for borderline low urine output and was found to 
have pyuria. In absence of symptoms, this was not treated. 
- Please repeat CBC given elevated HCT on discharge (HCT 48.2)
- Consider low dose beta blocker in setting of reduced EF
- Please continue to trend BP and adjust anti-hypertensive 
regimen
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral BID 
3. Lisinopril 20 mg PO DAILY 
4. Simvastatin 20 mg PO DAILY 
5. Alendronate Sodium 70 mg PO QMON 
6. Donepezil 10 mg PO HS 
7. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-6-150 
mg-unit-mg-mg oral daily 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Donepezil 10 mg PO HS 
3. Simvastatin 20 mg PO DAILY 
4. Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*0
5. Alendronate Sodium 70 mg PO QMON 
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral BID 
7. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-6-150 
mg-unit-mg-mg oral daily 
8. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
9. Lidocaine 5% Patch 1 PTCH TD QAM 
to chest wall 
RX *lidocaine [Lidoderm] 5 % (700 mg/patch) 1 application every 
2 days Disp #*1 Container Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: s/p fall, left fourth through sixth rib 
fractures
Secondary Diagnoses: aortic stenosis, dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___. You were admitted 
after an unwitnessed fall at home and you were found to have rib 
fractures on your left side.  You also had an ECHO (ultrasound) 
of your heart that showed worsening aortic stenosis.  Please 
follow-up with cardiology and cardiac surgery.

Please keep your follow-up appointments as below. Please return 
to the emergency room if you experience fevers, chills, another 
fall, loss of consciousness, confusion, weakness, 
lightheadedness, chest pain, or other new or concerning 
symptoms.

We wish you the best,
Your ___ team
 
Followup Instructions:
___